US07851463B2
32.2 4-Dimethylaminomethyl-N-[4-((S)-1-propyl-pyrrolidin-3-yl)-phenyl]-benzenesulfonamide
0.3 g of 4-formyl-N-[4-((S)-1-propyl-pyrrolidin-3-yl)-phenyl]-benzenesulfonamide (0.81 mmol) were dissolved in 20 ml of dichloromethane, 0.6 ml of a 2 M solution of dimethylamine in tetrahydrofuran (1.21 mmol) added, followed by addition of 0.07 ml of acetic acid and 0.256 g sodium triacetoxyborohydride. The reaction mixture was stirred for 15 h at room temperature, water added, the pH adjusted to alkaline conditions with 1 N aqueous sodium hydroxide, and the aqueous layer extracted twice with diethylether. The combined ether extracts were dried over magnesium sulfate, filtered and the solvent evaporated under reduced pressure. The crude product was purified via preparative HPLC on a 40 mm Deltapak column with methanol/water/0.1% acetic acid. Fractions containing the product were combined, the solvent evaporated and the product isolated after extraction of an alkaline aqueous layer. (0.051 g).

reactant | 4-formyl-N-[4-((S)-1-propyl-pyrrolidin-3-yl)-phenyl]-benzenesulfonamide | 0.81 mmol, 0.3 g | C(=O)C1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)[C@H]1CN(CC1)CCC | C20H24N2O3S
reactant | dimethylamine | CNC | C2H7N
reactant | tetrahydrofuran | 1.21 mmol | O1CCCC1 | C4H8O
reactant | sodium triacetoxyborohydride | 0.256 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | acetic acid | 0.07 ml | C(C)(=O)O | C2H4O2
product | 4-Dimethylaminomethyl-N-[4-((S)-1-propyl-pyrrolidin-3-yl)-phenyl]-benzenesulfonamide | CN(C)CC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)[C@H]1CN(CC1)CCC | C22H31N3O2S
